US04330461
A mixture of 2.50 g of methyl dicyclohexylphosphinite and 1.00 g of 4,6-dichloro-2-methylthiopyrimidine in 20 ml of o-dichlorobenzene was refluxed under nitrogen for 6.5 hours. Volatiles were removed from the mixture under vacuum, and the resulting oily residue was recrystallized twice from cyclohexane with decolorizing charcoal treatment and dried at 100° C./0.1 mm (13 Pa) to give 0.15 g of 4,6-bis(dicyclohexylphosphinyl)-2-methylthiopyrimidine as white crystals, mp 197°-198.5° C. Anal. Calcd for C29H48N2O2P2S: C, 63.25; H, 8.79; N, 5.07; S, 5.82. Found: C, 63.19; H, 8.81; N, 4.89; S, 6.04.

reactant | methyl dicyclohexylphosphinite | 2.50 g | C1(CCCCC1)P(OC)C1CCCCC1 | C13H25OP
reactant | 4,6-dichloro-2-methylthiopyrimidine | 1.00 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
solvent | o-dichlorobenzene | 20 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4,6-bis(dicyclohexylphosphinyl)-2-methylthiopyrimidine | 0.15 g | C1(CCCCC1)P(=O)(C1=NC(=NC(=C1)P(=O)(C1CCCCC1)C1CCCCC1)SC)C1CCCCC1 | C29H48N2O2P2S
